US09303028B2
A mixture of 2-amino-4-chloro-5-fluorobenzaldehyde (0.30 g, 1.73 mmol) and urea (1.04 g, 17.3 mmol) was heated to 180° C. for 1 h, then cooled to RT. The solid was then suspended in a mixture of EtOAc and water and then it was filtered and the collected solid was washed with water several times, then air-dried. This intermediate quinazolinone was then suspended in phosphorus oxychloride (3.0 mL, 32.2 mmol) and then heated to 100° C. for 1 h. After cooling to RT, the mixture was added dropwise to an ice-water mixture. The mixture was stirred for 5 minutes and then the product was extracted into EtOAc (3×). The combined extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give an oil that was purified by silica gel chromatography to give 2,7-dichloro-6-fluoroquinazoline as a white solid (46 mg, 12% yield). m/z=217 (M+1).

reactant | 2-amino-4-chloro-5-fluorobenzaldehyde | 1.73 mmol, 0.30 g | NC1=C(C=O)C=C(C(=C1)Cl)F | C7H5ClFNO
reactant | urea | 17.3 mmol, 1.04 g | NC(=O)N | CH4N2O
reactant | phosphorus oxychloride | 32.2 mmol, 3.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 2,7-dichloro-6-fluoroquinazoline | 46 mg, 12% yield | ClC1=NC2=CC(=C(C=C2C=N1)F)Cl | C8H3Cl2FN2
